US04371720
Trans-1-[2-Hydroxy-4-(1,1-dimethylheptyl)phenyl]-2-(3-hydroxypropyl)cyclohexane
A mixture of 1.9 g. (5.08 mmoles) of trans-3-[2-hydroxy-4-(1,1-dimethylheptyl)phenyl]-2-(3-hydroxypropyl)cyclohexanone and 10.2 ml. of hydrazine hydrate in 20 ml. of ethylene glycol is heated at 100° C. for an hour. The reaction was cooled to 60° C. and 4.05 g. (72.3 mmoles) of solid potassium hydroxide added. The resultant mixture was heated for 2 hours at 200° C., then cooled and added to 500 ml. 1 N hydrochloric acid and 300 ml. ether. The ether extract was washed with 300 ml. saturated sodium chloride, 300 ml. saturated sodium bicarbonate, dried over magnesium sulfate and evaporated under reduced pressure (aspirator) to an oil. The crude oil was purified via column chromatography on 100 g. of silica gel eluted with 70% ether-hexane to yield 406 mg. (22%) of the title compound as an oil.

reactant | trans-3-[2-hydroxy-4-(1,1-dimethylheptyl)phenyl]-2-(3-hydroxypropyl)cyclohexanone | 5.08 mmoles | OC1=C(C=CC(=C1)C(CCCCCC)(C)C)[C@H]1[C@@H](C(CCC1)=O)CCCO | C24H38O3
reactant | hydrazine hydrate | O.NN
reactant | potassium hydroxide | [OH-].[K+]
reactant | hydrochloric acid | 1 N | Cl | ClH
solvent | ether | CCOCC | C4H10O
solvent | ethylene glycol | C(CO)O | C2H6O2
product | Trans-1-[2-Hydroxy-4-(1,1-dimethylheptyl)phenyl]-2-(3-hydroxypropyl)cyclohexane | 22% | OC1=C(C=CC(=C1)C(CCCCCC)(C)C)[C@H]1[C@@H](CCCC1)CCCO | C24H40O2
